US06177400B1
Preparation of 1-(4,6,6-trimethyl-1,3-cyclohexadien-1-yl)-2-buten-1-one
32 g of 4,6,6-trimethyl-1,3-cyclohexadiene-1-carbaldehyde [prepared according to A. F. Thomas et al., Helv. Chim. Acta, 59 (1976), p. 2261-7] in 80 ml of THF were added dropwise to a Grignard compound which had been prepared beforehand from 6 g of magnesium turnings and 32 g of 1-bromo-1-propene in 120 ml of THF. The temperature was maintained at 20° with a water bath during the addition, after which the mixture was heated and kept at reflux over 30 minutes. The reaction mixture was poured into an ice/water ixture and then extracted with ether. The organic phase was washed to neutrality, dried and concentrated. The crude product was then oxidized with 210 g of activated manganese dioxyde (see Houben Weyl, Vol. 7, 1, page 178, 1951; E. M. Goldman, Org. Chem., 34, 1979, 1969) in 200 ml of petroleum ether.

reactant | 4,6,6-trimethyl-1,3-cyclohexadiene-1-carbaldehyde | 32 g | CC1=CC=C(C(C1)(C)C)C=O | C10H14O
reactant | magnesium | 6 g | [Mg] | Mg
reactant | 1-bromo-1-propene | 32 g | BrC=CC | C3H5Br
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 1-(4,6,6-trimethyl-1,3-cyclohexadien-1-yl)-2-buten-1-one | CC1=CC=C(C(C1)(C)C)C(C=CC)=O | C13H18O
